US08957064B2
Step 2: 3-(5-pyridin-2-yl-1H-[1,2,4]triazol-3-yl)-azetidine-1-carboxylic acid tert-butyl ester
3-hydrazinocarbonyl-azetidine-1-carboxylic acid tert-butyl ester (2.74 g, 12.73 mmol) and 2-cyano-pyridine (1.45 g, 13.95 mmol) were dissolved in 2-ethoxyethanol (30 mL) and a 30 wt % solution of NaOMe in MeOH (1.19 mL, 6.38 mmol) was added. The resulting mixture was heated to 130° C. and stirred overnight. On cooling the mixture was neutralised by the addition of acetic acid and partitioned between EtOAc and saturated aqueous NaHCO3 solution. The organic phase was dried (Na2SO4) and concentrated in vacuo to give a yellow solid. Further purification was achieved by trituration with diethyl ether followed by recrystallisation from MeOH.

reactant | 3-hydrazinocarbonyl-azetidine-1-carboxylic acid tert-butyl ester | 12.73 mmol, 2.74 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)NN | C9H17N3O3
reactant | 2-cyano-pyridine | 13.95 mmol, 1.45 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 6.38 mmol, 1.19 mL | CO | CH4O
solvent | 2-ethoxyethanol | 30 mL | C(C)OCCO | C4H10O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(5-pyridin-2-yl-1H-[1,2,4]triazol-3-yl)-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C1=NNC(=N1)C1=NC=CC=C1 | C15H19N5O2
